US04451462
1.8 g of 6-amino-3,5-dimethylbenzofuran-2-(3H)-one are dissolved in 20 ml of dioxane and, while stirring at room temperature, 2 ml of 2,5-dimethoxy-tetrahydrofuran and 1.4 ml of 37% strength hydrochloric acid are added. After 30 minutes the aqueous phase is removed and the organic phase is concentrated to dryness by evaporation in vacuo. The residue is chromatographed over silica gel with methylene chloride. The resulting pale-yellow oil crystallises from butyl oxide. In this manner 3,5-dimethyl-6-(pyrrol-1-yl)-benzofuran-2(3H)-one having a melting point of 61°-63° C. is obtained.

reactant | 6-amino-3,5-dimethylbenzofuran-2-(3H)-one | 1.8 g | NC1=CC2=C(C(C(O2)=O)C)C=C1C | C10H11NO2
reactant | 2,5-dimethoxy-tetrahydrofuran | 2 ml | COC1OC(CC1)OC | C6H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3,5-dimethyl-6-(pyrrol-1-yl)-benzofuran-2(3H)-one | CC1C(OC2=C1C=C(C(=C2)N2C=CC=C2)C)=O | C14H13NO2
